US09428477B2
Production of 1-((E)-2-Decenoyl)piperidine [Compound 5]
The same procedures as in Example 1 were carried out using (E)-2-decenoic acid and piperidine as starting raw materials, to produce an intended compound.

reactant | (E)-2-decenoic acid | C(\C=C\CCCCCCC)(=O)O | C10H18O2
reactant | piperidine | N1CCCCC1 | C5H11N
product | 1-((E)-2-Decenoyl)piperidine | C(\C=C\CCCCCCC)(=O)N1CCCCC1 | C15H27NO
